US06486342B1
(2-(2-{4-[(3,5-Dimethyl-phenylcarbamoyl)-methyl]-phenoxy}-2-methyl-propionyl)-pyrrolidine-2-carboxylic acid (L) (35), (KDD5-131)
Using RSR13 acid (3.08 g, 9.0 mmol), proline methyl ester hydrochloride (1.5 g, 9.0 mmol) and 1-hydroxybenzotriazole hydrate (1.34 g, 9.9 mmol), N-methylmorpholine (1.37 g, 13.6 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.08 g, 10.8 mmol) in dimethylformamide (40 mL), the product was prepared in 3.9 g yield (99%).

reactant | RSR13 | 9.0 mmol, 3.08 g | CC=1C=C(C=C(C1)NC(=O)CC=2C=CC(=CC2)OC(C)(C)C(=O)O)C | C20H23NO4
reactant | proline methyl ester hydrochloride | 9.0 mmol, 1.5 g | Cl.COC([C@H]1NCCC1)=O
reactant | 1-hydroxybenzotriazole hydrate | 9.9 mmol, 1.34 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 13.6 mmol, 1.37 g | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 10.8 mmol, 2.08 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 2-(2-{4-[(3,5-Dimethyl-phenylcarbamoyl)-methyl]-phenoxy}-2-methyl-propionyl)-pyrrolidine-2-carboxylic acid | CC=1C=C(C=C(C1)C)NC(=O)CC1=CC=C(OC(C(=O)C2(NCCC2)C(=O)O)(C)C)C=C1 | C25H30N2O5
